US05922737
Combine (1H-benzimidazol-2-yl)(1-ethoxycarbonylpiperidin-4-yl)amine (0.5 g, 1.6 mmol) and tetrahydrofuran (10 mL). Cool to -78° C. Add dropwise, a solution of potassium bis(trimethylsilyl)amide (3.6 mL, 0.5M in toluene, 1.8 mmol). After 30 minutes, add fur-2-ylmethyl 2-methanesulfonylethyl ether (1.8 mmol). Warm to ambient temperature and heat to reflux. After 18 hours, cool to ambient temperature and add water. Separate the organic layer and extract the aqueous layer with dichloromethane. Dry the combined organic layers over Na2SO4, filter, and evaporate in vacuo to give (1-(2-(fur-2-ylmethoxy)ethyl)-1H-benzimidazol-2-yl)(1-ethoxycarbonylpiperidin-4-yl)amine: Rf =0.55 (2% triethylamine/10% methanol/ethyl acetate).

reactant | (1H-benzimidazol-2-yl)(1-ethoxycarbonylpiperidin-4-yl)amine | 1.6 mmol, 0.5 g | N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OCC | C15H20N4O2
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | potassium bis(trimethylsilyl)amide | 1.8 mmol, 0.5M, 3.6 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | fur-2-ylmethyl 2-methanesulfonylethyl ether | 1.8 mmol | CS(=O)(=O)CCOCC=1OC=CC1 | C8H12O4S
solvent | water | O | H2O
product | (1-(2-(fur-2-ylmethoxy)ethyl)-1H-benzimidazol-2-yl)(1-ethoxycarbonylpiperidin-4-yl)amine | O1C(=CC=C1)COCCN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OCC | C22H28N4O4
